US07723331B2
c) 6-(4-Chlorophenyl)-3-{3-[(1-methylpiperidin-4-yl)methoxy]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one
5-(4-Chloro-phenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester (0.165 g, 0.51 mmol) and 1-{3-[(1-methylpiperidin-4-yl)methoxy]phenyl}-methanamine (0.100 g, 0.43 mmol) in MeOH (2 mL) was heated by microwave at 120° C. in 20 minutes, cooled, the formed precipitate filtered off and washed with MeOH to give the title compound as a white solid. Yield: 0.075 g (31%). 1H NMR (400 MHz, CDCl3) δ 8.07 (s, 1H), 7.58-7.63 (m, 2H), 7.45 (s, 1H), 7.38-7.43 (m, 2H), 7.22 (m, 1H), 6.79-6.91 (m, 3H), 5.17 (s, 2H), 3.76 (d, 2H, J=6.4 Hz), 2.82-2.89 (m, 2H), 2.25 (s, 3H), 1.87-1.96 (m, 2H), 1.76-1.83 (m, 2H), 1.68-1.76 (m, 1H), 1.32-1.44 (m, 2H).

reactant | 5-(4-Chloro-phenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester | 0.51 mmol, 0.165 g | COC(=O)C=1SC(=CC1N=CN(C)C)C1=CC=C(C=C1)Cl | C15H15ClN2O2S
reactant | 1-{3-[(1-methylpiperidin-4-yl)methoxy]phenyl}-methanamine | 0.43 mmol, 0.100 g | CN1CCC(CC1)COC=1C=C(C=CC1)CN | C14H22N2O
solvent | MeOH | 2 mL | CO | CH4O
product | 6-(4-Chlorophenyl)-3-{3-[(1-methylpiperidin-4-yl)methoxy]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC1=CC(=CC=C1)OCC1CCN(CC1)C | C26H26ClN3O2S
